* C:\git\ltspice-projects\Jupiter 6 filter - reso CV and vca cv using const current sources - overdrive - 10 modes.asc
R1 N033 N030 68k
R2 0 N033 560
C1 N040 0 330p
R4 cutoff_cc N039 10k
R5 N034 N026 68k
R6 0 N034 560
C2 N042 0 330p
R8 cutoff_cc N041 10k
R9 N035 N029 68k
R10 0 N035 560
C3 N044 0 330p
R12 cutoff_cc N043 10k
R13 N036 N028 68k
R14 0 N036 560
C4 N046 0 330p
R16 cutoff_cc N045 10k
XU1 NC_01 0 N033 N039 N040 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N034 N041 N042 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N035 N043 N044 15V -15V 0 NC_06 HALF13700
XU9 NC_07 0 N036 N045 N046 15V -15V 0 NC_08 HALF13700
XU11 NC_09 P001 N056 VCA_I_ABC N051 15V -15V 0 NC_10 HALF13700
R23 N056 0 560
R24 P001 0 560
R25 N056 N055 4.7k
C6 N054 N052 1µ
R28 N055 N057 2.2MEG
R3 N030 N022 100k
R7 0 N037 33k
R11 0 N037 10k
R15 N018 N037 47k
C7 N037 0 33p
R33 N032 N020 56k
R34 NC_11 N030 56k
R35 N023 N032 100k
R36 N029 N023 100k
C8 N038 0 33p
R37 N038 0 33k
D2 N038 N048 D
D3 N048 N038 D
R38 N048 0 10k
R39 N048 N028 47k
R17 N047 N021 33k
R18 NC_12 N029 33k
XU7 NC_13 0 N027 N024 N023 15V -15V NC_14 NC_15 HALF13700
R19 N028 N027 68k
R40 0 N027 560
R41 N021 N023 100k
C9 N021 N023 5p
XU15 NC_16 0 N019 N025 N022 15V -15V NC_17 NC_18 HALF13700
R42 N026 N019 68k
R43 0 N019 560
R44 N020 N022 100k
C10 N020 N022 5p
R32 N010 N009 10k
R45 N011 N010 8k2
R46 0 N011 560
C11 N010 0 0.1µ
Q3 N015 0 N016 0 PNP
Q4 cutoff_cc N011 N016 0 PNP
R47 N016 N017 1.5k
R48 -15V N015 1.5MEG
C12 N015 N017 47p
R49 N005 -15V 470k
R50 N005 FREQ_CV 49.9k
R51 N006 N005 100k
V13 15V 0 15
V14 0 -15V 15
XU16 N015 0 N017 opamp Aol=100K GBW=10Meg
XU17 N005 0 N006 opamp Aol=100K GBW=10Meg
R52 N005 P002 270k
XU18 15V -15V P002 pot_lin Rtot=220K wiper=0.5
XU19 N009 N006 N006 pot_lin Rtot=20K wiper=0.7
V15 FREQ_CV 0 2
V16 VCA_CV 0 5
V17 RESO_CV 0 0
V18 IN 0 SINE(0 5 500) AC 1
XU10 15V -15V N057 pot_lin Rtot=100K wiper=.46
XU3 N026 N040 N026 opamp Aol=100K GBW=10Meg
XU4 N022 N037 N030 opamp Aol=100K GBW=10Meg
XU6 N020 N042 N020 opamp Aol=100K GBW=10Meg
XU8 N028 N044 N028 opamp Aol=100K GBW=10Meg
XU12 N021 N046 N021 opamp Aol=100K GBW=10Meg
XU13 N051 0 OUT opamp Aol=100K GBW=10Meg
XU14 N023 N038 N029 opamp Aol=100K GBW=10Meg
R53 N018 N019 33k
R21 IN N031 100k
XU21 N031 0 N018 opamp Aol=100K GBW=10Meg
R22 N031 N018 33k
R54 N025 RESO_I_ABC 10k
R59 N024 RESO_I_ABC 10k
R62 NC_19 N026 5k
R65 NC_20 N028 15k
R66 N055 N053 1
XU25 N054 NC_21 N053 pot_lin Rtot=50K wiper=0.35
XU26 N051 OUT OUT pot_lin Rtot=50K wiper=0.15
Q2 N004 N002 N001 0 PNP
R26 N003 N001 1MEG
XU27 N001 0 N002 opamp Aol=100K GBW=10Meg
XU28 0 -15V N003 pot_lin Rtot=10K wiper=0.5
R27 N001 VCA_CV 10k
D1 N002 N001 D
R31 VCA_I_ABC N004 10k
Q1 RESO_I_ABC N008 N007 0 PNP
XU29 N007 0 N008 opamp Aol=100K GBW=10Meg
XU30 15V 0 N012 pot_lin Rtot=10K wiper=0.7
R29 P003 N014 10k
D4 N008 N007 D
XU31 P003 NC_22 N007 pot_lin Rtot=25K wiper=0.6
XU32 N013 0 N014 opamp Aol=100K GBW=10Meg
R67 N013 RESO_CV 100k
R68 N014 N013 100k
R20 N012 N007 39k
R30 LIN_FM N015 150k
XU20 N049 0 N050 opamp Aol=100K GBW=10Meg
R57 N050 N049 56k
R58 NC_23 N050 56k
R55 N020 N049 56k
R56 N049 N030 56k
R60 NC_24 N047 22k
R61 N052 N047 100k
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
.ac oct 100 0.1 20000
* R27:\n27k when tapped at 12dB with second stage connected\n50k when 24dB\n1Ohm when BP\n \nR31:\n82k for all but BP\n27k when BP
;tran 0 0.1 0 0.1
.lib opamp.sub
* 21.92k gir 17.9mV
;ac oct 100 0.1 20000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* Must recheck these values, external to circuit
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* Discovered missing feedback 33k
* Summing point\nUse 100k resistor
* TODO: This acts as a LP filter\nand must be removed to reach\n20kHz
* HP
* LP
* BP
* LP
* HP
* BP
* VCA Gain (amplitude)
* sum point, 10k\nresistor for similar \nresponse as CV
* Simulation does not work if \nR22 > 4k or Cutoff CV > 4.7V\n \n15k works with 4.7V CV (26kHz)\n3.9k works with 5V CV (33kHz)
;dc V17 0 5 0.01
* 10k here matches the moog filter, making it possible to have a common summing point. \nShould idealy do the same for the Juno which has 15k..
* This is too sensitive!
* Calibrating resonance CV:\nTune U30 until you get -125uA Reso I_abc per OTA (or to freq response is OK)\nTune U31 until you get -25uA or -4uA Reso I_abc per OTA (for similar response to 5 or 10V CV on the JP6)\nNB: No deadband available.
* NB: CV must increase rapidly then slow down,\n(logarithmic?) unlike juno/moog where CV\nis exponential.
* 33k resistor here overdrives filter when > 10Vp.p \n(50k output)\n15k for no overdrive over larger.
* NB: SERIOUS PROBLEM WITH CUTOFF CV > 5V
* Notch
* SVF1
* MUX1, 4:1
* SPDT
* MUX2, 4:1
.lib potentiometer_standard.lib
.backanno
.end
